US07060827B2
In a like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3-chloro-4-methoxyphenyl)-5-fluoro-4-pyrimidineamine and 3-hydroxyaniline were reacted to produce N4-(3-chloro-4-methoxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.91 (d, 1H, J=5.4 Hz), 7.71 (d, 1H, J=2.4 Hz), 7.58 (dd, 1H, J=3.0 and 9.0 Hz), 7.15 (t, 1H, J=8.4 Hz), 7.06 (d, 1H, J=8.7 Hz), 6.92 (td, 1H, J=1.8 and 9.9 Hz), 6.88 (t, 1H, J=1.8 Hz), 6.61 (ddd, 1H, J=1.2, 2.4, and 8.1 Hz), 3.89 (s, 3H),; 19F NMR (282 MHz, CD3OD): −46612; LCMS: purity: 98%; MS (m/e): 362(MH+).

reactant | 2-chloro-N4-(3-chloro-4-methoxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)OC)Cl)F | C11H8Cl2FN3O
reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
product | N4-(3-chloro-4-methoxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | ClC=1C=C(C=CC1OC)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C17H14ClFN4O2
